US06559164B1
Piperidine-4-carboxylic Acid 3-(1-Methyl-1H-indol-3-yl)-4-(1-methyl-6-nitro-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-pyrrol-1-ylmethyl Ester Hydrochloride
Piperidine-4-carboxylic acid 3-(1-methyl-1H-indol-3-yl)-4-(1-methyl-6-nitro-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-pyrrol-1-ylmethyl ester acetate salt, prepared as in example 9 above, was dissolved in ethyl acetate. The ethyl acetate solution was neutralized with cold saturated NaHCO3, was concentrated, and was taken up in 1:5 CH3CN:H2O. The resulting solution was treated with 2 equivalents of 2N aq. HCl and purified by HPLC to give the desired product (yield—86%).

reactant | Piperidine-4-carboxylic acid 3-(1-methyl-1H-indol-3-yl)-4-(1-methyl-6-nitro-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-pyrrol-1-ylmethyl ester acetate salt | C(C)(=O)O.CN1C=C(C2=CC=CC=C12)C=1C(N(C(C1C1=CN(C2=CC(=CC=C12)[N+](=O)[O-])C)=O)COC(=O)C1CCNCC1)=O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | HCl | 2N, 2 equivalents | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Piperidine-4-carboxylic Acid 3-(1-Methyl-1H-indol-3-yl)-4-(1-methyl-6-nitro-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-pyrrol-1-ylmethyl Ester Hydrochloride | yield—86% | Cl.CN1C=C(C2=CC=CC=C12)C=1C(N(C(C1C1=CN(C2=CC(=CC=C12)[N+](=O)[O-])C)=O)COC(=O)C1CCNCC1)=O | InChI=1S/C29H27N5O6.ClH/c1-31-14-21(19-5-3-4-6-23(19)31)25-26(22-15-32(2)24-13-18(34(38)39)7-8-20(22)24)28(36)33(27(25)35)16-40-29(37)17-9-11-30-12-10-17;/h3-8,13-15,17,30H,9-12,16H2,1-2H3;1H
